US07375134B2
(2S)-5,5,5-Trifluoro-2-({(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}amino)pentanoic acid (0.55 g, 0.114 mmol), aminoacetonitrile hydrochloride (21 mg, 0.228 mmol) and HATU (43 mg, 0.114 mmol) were dissolved in DMF (2 mL) and the reaction mixture was cooled to −20° C. Diisopropylethylamine (0.10 mL, 0.57 mmol) was added and the reaction mixture was stirred at −20° C. for three hours and then at ambient temperature for 16 hours. Ethyl acetate (ca.30 mL) and water (ca.30 mL) were added and the mixture was shaken vigorously. The organic layer was washed with water, dried with magnesium sulfate, and filtered. The filtrate was concentrated by rotary evaporation and the residue was purified by silica gel chromatography using 30% ethyl acetate in hexanes as eluant to yield (2S)-5,5,5-trifluoro-2-({(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}amino)pentanoic acid cyanomethyl amide as a white solid.

reactant | (2S)-5,5,5-Trifluoro-2-({(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}amino)pentanoic acid | 0.114 mmol, 0.55 g | FC(CC[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C20H19F6NO4S
reactant | aminoacetonitrile hydrochloride | 0.228 mmol, 21 mg | Cl.NCC#N
reactant | HATU | 0.114 mmol, 43 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 0.57 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-5,5,5-trifluoro-2-({(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}amino)pentanoic acid cyanomethyl amide | C(#N)CNC([C@H](CCC(F)(F)F)N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C22H21F6N3O3S
